US09211281B2
Step 1. (E)-tert-Butyl 2-(2-bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)benzoyl)-1-methylhydrazinecarboxylate
To a stirred solution of (E)-2-bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)benzoic acid (800 mg, 1.63 mmol) in DCE (15 mL) was added tert-butyl hydrazinecarboxylate (290 mg, 1.96 mmol), DMAP (218 mg, 1.86 mmol), EDC.HCl (279 mg, 1.86 mmol) and DIPEA (0.8 mL, 4.89 mmol). The reaction mixture was stirred at 25° C. for 12 h, then diluted with water and extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4 and concentrated under reduced pressure. Purification by flash column chromatography (SiO2, 100-200 mesh; eluting with 30% hexane:EtOAc) afforded the title compound as a brown gum (800 mg, 72%): 1H NMR (300 MHz, DMSO-d6) δ 10.5 (bs, 1H), 7.96 (s, 1H), 7.91 (s, 2H), 7.66 (d, J=7.8 Hz, 1H), 7.37 (s, 1H), 7.03 (dd, J=15.3, 8.7 Hz, 1H), 6.78 (d, J=15.9 Hz, 1H), 4.87-4.81 (m, 1H), 3.08 (s, 3H), 1.43 (s, 9H).

reactant | (E)-2-bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)benzoic acid | 1.63 mmol, 800 mg | BrC1=C(C(=O)O)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C17H9BrCl3F3O2
reactant | tert-butyl hydrazinecarboxylate | 1.96 mmol, 290 mg | N(N)C(=O)OC(C)(C)C | C5H12N2O2
reactant | EDC.HCl | 1.86 mmol, 279 mg | CCN=C=NCCCN(C)C.Cl
reactant | DIPEA | 4.89 mmol, 0.8 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCE | 15 mL | ClCCCl | C2H4Cl2
catalyst | DMAP | 1.86 mmol, 218 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | O | H2O
product | (E)-tert-Butyl 2-(2-bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)benzoyl)-1-methylhydrazinecarboxylate | 800 mg, 72% | BrC1=C(C(=O)NN(C(=O)OC(C)(C)C)C)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C23H21BrCl3F3N2O3
